Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
dapsone
 
Attending: ___.
 
Chief Complaint:
fatigue, abdominal cramping, diarrhea and decreased appetite
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
A ___ year old female with a history of transformed diffuse large 
B cell lymphoma ___ a curative attempt with an AutoSCT with BEAM 
 conditioning in ___ ___s IFRT with course complicated 
 by ___ pneumonitis, who was subsequently found to have 
treatment-related MDS now ___ cycle 3 of Decitabine (D22) 
presenting with 2 days of poor oral intake, fatigue, diarrhea 
and abdominal cramping.

REVIEW OF SYSTEMS:
GENERAL: Fatigue. No fever, chills, night sweats. No itching. 
HEENT: No congestion, sore throat. No sores in the mouth,
painful swallowing, sinus tenderness. 
CARDS: No chest pain, chest pressure, exertional symptoms, or
palpitations. 
PULM: No cough; notes shortness of breath with exertion which
has increased somewhat; no shortness of breath at rest; no
wheezing or hemoptysis. 
GI: GI upset with no specific nausea or vomiting with
decreased food intake; + diarrhea ___ night and ___ AM with
epigatric pain. No constipation, hematochezia, or melena. 
GU: No dysuria or change in bladder habits. 
MSK: Right lower back pain much improved. No need for pain
medications. Occasional left lower back/sciatica pain which is
chronic.  
DERM: No new rashes or skin lesions. 
NEURO: Alert and oriented; no further issues with word finding;
no confusion. + headache on ___ with history of migraines.
No visual changes. Slight lightheadedness. Usual numbness of
right toes following prior surgery; no increased numbness. Has
started tapering her Gabapentin but numbness of fingers has
improved.
 
Past Medical History:
TRANSPLANT DATA:
___: Transplant Date: 1
          Graft: Auto
          Conditioning Intensity: Ablative
          Conditioning Regimen: BEAM

PAST ONCOLOGIC HISTORY:
Transformed ___ with a history of follicular lymphoma stage 
IIA
- ___ developed worsening musculoskeletal back pain, early
satiety, hypoalbuminemia and found to have mesenteric mass
- ?___ ex lap with 15 cm lobulated mass involving the
duodenum, retroperitoneum and celiac access.  Biopsies showed
Follicular lymphomas grade II/III.  Reportedly negative staging
Gallium scan. CD10+ BCL2+
- ___ completed 6 cycles CHOP, complications included
SVC/innominate thrombus (tPA)
- ___ CT showed persistent 7 x 3.5 x 9 cm oblong mass, bone
marrow at completion was negative for lymphomatous involvement.
- ___ PET-CT with very slight amount of increased tracer
activity within the posterior left supraclavicular region. No
other areas of FDG avid disease were noted 
- ___ through ___ per records she was treated with CVP
followed by course of single agent Rituxan
- ___ through ___ surveillance imaging with no evidence of
recurrent disease, stable mesenteric mass.
- ___ abdominal pain led to CT with no change in mass size,
increased conspicuity of nodular borders
- ___ PET-CT with L. hilar LN PET-avid to SUV 7.9, otherwise
stable mesenteric mass with low level SUV 2.2 stable since 
prior.
- ___ CT torso showed persistent mesenteric and left hilar
lymphadenopathy. Stable right middle lobe small focus of ground
glass opacity and adjacent subpleural fat hypertrophy, 
suggestive
of inflammatory process. Stable right adnexal cyst.  
- ___ Presented to PCP ___ ___iscomfort. 
Exam
revealed new adenopathy. Labs notable for LDH 341, WBC 10.1,
normal differential, PLT 452. 
- ___ PET CT revealed, "Large left cervical,
supraclavicular, mediastinal lymphadenopathy, and 
retroperitoneal
lymphadenopathy, and small mesenteric
lymphadenopathy, all markedly FDG-avid and concerning for
lymphoma." SUVmax 35.5.
- ___iopsy revealed diffuse large B cell
lymphoma, CD20+ CD10+ lambda restricted. MIB and cytogenetics 
are
pending
- ___ C1D1 ICE
- ___ C1 Rituximab, clinically improved adenopathy
- ___ C2 Rituximab, WBC 6.5, PLT 43
- ___ Admit for C2D1 ICE
- ___ C3 Rituximab
- ___ PET CT showed almost complete resolution of FDG avid
disease with a residual focus of avidity in the bed of the 
former
abdominal mass, SUV ___
- ___ C4 Rituximab
- ___ C4 ICE followed by stem cell mobilization and
collection, BMBx showed a nest of CLL unrelated to her 
aggressive
lymphoma
- ___ Presented with large DVTs, SVC filter placed
- ___ D0 of a BEAM autoSCT, course notable for mucositis
- ___ Switched to Rivaroxiban for AC
- ___ PET CT ___, PFTs with normal Hb adjusted DLCO
- ___ IVIg 400 mg/kg c/b fever, aseptic meningitis,
cytopenias
- ___ Start XRT
- ___ Presented w dyspnea, DLCO 79% predicted (adjusted for
Hb). Started prednisone 80 mg PO daily
- ___ DLCO 96%, reduce prednisone to 50 mg PO daily
- ___ DLCO 111%, reduce prednisone to 30 mg PO daily
- ___ DLCO 84%, pulse steroids, increase prednisone to 50 
mg
PO daily. PLT 81, Bactrim switched to Dapsone for PCP ___.
- Weekly monitoring of DLCO with taper of prednisone to 10 mg
daily as of ___ with DLCO 99%.  Dapsone d/ced on ___
due to hemolysis.
- ___ Decreased prednisone to 5 mg PO daily. Noro virus
persistently positive. 
- ___ CT torso with no evidence of active disease.
Unchanged mesenteric fullness. 
- ___ DLCO decrease (not reported) increase prednisone to 
10
mg
- ___ IVIg 400 mg/kg
- ___ DLCO 121%, continue prednisone 10 mg
- IVIg 400 mg/kg, continues monthly for Hypogammaglobuonemia.
- ___, tapered off prednisone.
- ___, CT torso with no evidence of active disease. Stable
appearance of a conglomeration of mesenteric lymph nodes. 
- ___, Right total knee replacement, primary, complicated
by foot drop likely d/t irritation of peroneal nerve and
cellulitis.
- ___, CT Torso with no evidence of active disease. 
Stable appearance of conglomerate of mesenteric LN's. Increased
dilatation of the main pulmonary artery suggests worsening
pulmonary arterial hypertension of indeterminate etiology.
- ___, CT torso with no evidence of active disease. Increased
dilation of pulmonary artery.  Evaluated by Dr. ___
- ___, increasing right leg swelling with noted DVT.  Xarelto
increased back to 20 mg daily(had been decreased given age and
prior chronic DVT).  No evidence for lymphoma on CT imaging.
- ___, noted drop in blood counts.  BM biopsy with evidence
for MDS.
- ___, C1 Dacogen
- ___, C2 Dacogen
- ___, C3 Dacogen
 
OTHER PAST MEDICAL HISTORY
- CVID, received IVIG monthly. last given ___
- GERD                                          
- Osteoarthritis                                         
- DVT, right lower extremity, IVC filter in place
- Cervical radiculopathy
- Sciatica
- Obstructive sleep apnea, wears CPAP
- H/O cerebral aneurism, noted on MRA with small R internal
carotid cavernous sinus aneurysm; coil placed in the aneurysm
(___).  On Neurontin.  Exam notable for slight CN 6 palsy of
the right eye, mild proptosis of the right eye, and hyperthesia
of the right V1 distribution
- Asthma
- Obesity
- Hypertension
- Migraines
 
Social History:
___
Family History:
brother - lymphoma

 
Physical ___:
ADMISSION PE:
GEN: More tired appearing in NAD
WT: 101.6 lbs. 
VS: TC 98.5 PO 127/84 86 18 98%RA 
HEENT: Right pupil slower to react to light which is baseline. 
MMM, no OP lesions or increased erythema.
CV: RRR, NL S1/S2 no MRG
PULM: CTAB with decreased breath sounds at bases; no rales or
wheezing. Normal respiratory effort.
ABD: Obese. BS+, soft, NT/ND. No HSM appreciated.
LIMBS: Right leg with decreased edema; left lower leg
with well healed area with no further surrounding erythema;
hyperpigmented skin changes on lower legs. Calves softer. 
SKIN: No rashes or new skin eruptions.
ACCESS: L POC w/o erythema, edema or tenderness

DISCHARGE PE:
GEN: NAD. Fatigue improved
WT: 101.6 lbs. 
VS: TC 97.7 108/54 80 20 96%RA  
HEENT: Right pupil slower to react to light which is baseline. 
MMM, no OP lesions or increased erythema.
CV: RRR, NL S1/S2. No MRG
PULM: CTAB with decreased breath sounds at bases; no rales or
wheezing. Normal respiratory effort.
ABD: Obese. BS+, soft, NT/ND. No HSM appreciated.
LIMBS: Right leg with decreased edema; left lower leg with well 
healed area with no further surrounding erythema; hyperpigmented 
skin changes on lower legs. Calves softer. 
SKIN: No rashes or new skin eruptions.
ACCESS: L POC w/o erythema, edema or tenderness
 
Pertinent Results:
___ 01:35PM   PLT SMR-VERY LOW PLT COUNT-42*
___ 01:35PM   NEUTS-28* BANDS-0 LYMPHS-70* MONOS-1* EOS-1 
BASOS-0 ___ MYELOS-0 AbsNeut-0.11* AbsLymp-0.28* 
AbsMono-0.00* AbsEos-0.00* AbsBaso-0.00*
___ 01:35PM   NEUTS-28* BANDS-0 LYMPHS-70* MONOS-1* EOS-1 
BASOS-0 ___ MYELOS-0 AbsNeut-0.11* AbsLymp-0.28* 
AbsMono-0.00* AbsEos-0.00* AbsBaso-0.00*
___ 01:35PM   WBC-0.4*# RBC-2.28* HGB-7.0* HCT-21.7* MCV-95 
MCH-30.7 MCHC-32.3 RDW-20.9* RDWSD-51.6*
___ 01:35PM   ALBUMIN-3.6 CALCIUM-8.5 PHOSPHATE-2.2* 
MAGNESIUM-2.0
___ 01:35PM   ALT(SGPT)-21 AST(SGOT)-24 LD(LDH)-188 ALK 
PHOS-131* TOT BILI-0.5
___ 01:35PM   UREA N-9 CREAT-0.8 SODIUM-140 POTASSIUM-3.0* 
CHLORIDE-107 TOTAL CO2-24 ANION GAP-12
___ 10:45PM URINE  MUCOUS-RARE
___ 10:45PM URINE  RBC-1 WBC-6* BACTERIA-FEW YEAST-NONE 
EPI-1
___ 10:45PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-NEG
___ 10:45PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 10:45PM STOOL  NoroGI-NEGATIVE NoroGII-NEGATIVE
___ 12:00AM   PLT SMR-VERY LOW PLT COUNT-42*
___ 12:00AM   HYPOCHROM-1+ ANISOCYT-1+ POIKILOCY-1+ 
MACROCYT-1+ MICROCYT-NORMAL POLYCHROM-1+ OVALOCYT-1+ 
SCHISTOCY-OCCASIONAL TEARDROP-OCCASIONAL
___ 12:00AM   NEUTS-19* BANDS-0 LYMPHS-79* MONOS-0 EOS-1 
BASOS-0 ATYPS-1* ___ MYELOS-0 NUC RBCS-2* AbsNeut-0.11* 
AbsLymp-0.48* AbsMono-0.00* AbsEos-0.01* AbsBaso-0.00*
___ 12:00AM   WBC-0.6* RBC-2.72* HGB-8.4* HCT-25.2* MCV-93 
MCH-30.9 MCHC-33.3 RDW-19.2* RDWSD-48.3*
___ 12:00AM   IgG-762
___ 12:00AM   ALBUMIN-3.4* CALCIUM-8.0* PHOSPHATE-3.3 
MAGNESIUM-2.0
___ 12:00AM   ALT(SGPT)-21 AST(SGOT)-23 LD(LDH)-178 ALK 
PHOS-127* TOT BILI-0.4
___ 12:00AM   GLUCOSE-87 UREA N-8 CREAT-0.8 SODIUM-143 
POTASSIUM-3.4 CHLORIDE-108 TOTAL CO2-22 ANION GAP-16
___ 12:00AM BLOOD WBC-0.9* RBC-3.10* Hgb-9.4* Hct-29.0* 
MCV-94 MCH-30.3 MCHC-32.4 RDW-19.9* RDWSD-51.1* Plt Ct-53*
___ 12:00AM BLOOD Neuts-15* Bands-0 Lymphs-84* Monos-1* 
Eos-0 Baso-0 ___ Myelos-0 NRBC-1* AbsNeut-0.14* 
AbsLymp-0.76* AbsMono-0.01* AbsEos-0.00* AbsBaso-0.00*
___ 12:00AM BLOOD Hypochr-NORMAL Anisocy-NORMAL Poiklo-1+ 
Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL Ovalocy-1+
___ 12:00AM BLOOD Glucose-92 UreaN-6 Creat-0.9 Na-139 K-3.5 
Cl-105 HCO3-22 AnGap-16
___ 12:00AM BLOOD ALT-24 AST-27 LD(LDH)-223 AlkPhos-146* 
TotBili-0.5
___ 12:00AM BLOOD Albumin-3.7 Calcium-8.3* Phos-3.4 Mg-2.4
___ 12:00AM BLOOD IgG-762

MICRO:

___ 10:45 pm STOOL     CONSISTENCY: LOOSE      Source: 
Stool. 

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Cepheid nucleic 
acid
      amplification assay.. 
           (Reference Range-Negative). 

___ 10:45 pm STOOL     CONSISTENCY: LOOSE      Source: 
Stool. 

   MICROSPORIDIA STAIN (Final ___:    NO MICROSPORIDIUM 
SEEN. 

   CYCLOSPORA STAIN (Pending): 

   FECAL CULTURE (Pending): 

   CAMPYLOBACTER CULTURE (Pending): 

   OVA + PARASITES (Pending): 

   Cryptosporidium/Giardia (DFA) (Final ___: 
      NO CRYPTOSPORIDIUM OR GIARDIA SEEN. 

BLOOD CULTURE ___ AND ___ NTD
 
Brief Hospital Course:
ASSESSMENT AND PLAN: ___ year old female with history of 
transformed diffuse large B cell lymphoma ___ a curative attempt 
with an AutoSCT with BEAM conditioning in ___ ___s 
IFRT with course complicated by BCNU pneumonitis as well as 
persistent norovirus with now noted treatment related MDS ___ 
C3 of Dacogen) presenting with poor oral intake, diarrhea and 
fatigue

#Diarrhea, epigastric discomfort and poor oral intake: Improved 
since admission. Poor intake in the past 2 days prior to 
admission. No vomiting or nausea. Had ___ loose stools since 
admission. No fevers at home and remained afebrile throughout 
hospital course. No other associated infectious symptoms 
currently.
-Cdiff negative; other stool cultures PND at discharge 
-UA with 6WBC; urine culture < 10, 000; Repeat UA/Urine CX PND 
at discharge 

#Hypokalemia: Now normalized, was 3.0 prior to admission. Her 
hypokalemia was noted in the setting of decreased oral intake 
and GI loss (diarrhea). Received K+ repletions at home. 

#Shortness of breath on exertion and lightheadedness: Improved 
since admission. Etiology likely related to profound anemia and 
decreased oral intake. Received 1U
prbcs at clinic prior to admission and received 1U in-house for 
hemoglobin of 7. No evidence of hypoxia or fever to suggest an 
acute pulmonary process. Hemoglobin 9.4 at discharge. 

#MDS: Noted for rapid progression of pancytopenia, particularly 
anemia. Bone marrow biopsy with dysplasia of all cell lines with 
noted cytogenetic abnormalities concerning for treatment related 
MDS. ___ made to treat with Dacogen with
plan to move towards allogeneic transplant. Neutrophils and 
platelets recovered prior to starting ___ cycle. Counts now low 
following treatment as expected although platelet appear to be 
recovering. She is currently ___ ___ C3 of Dacogen. 
-transfuse for platelets < 20,000 (54 at discharge) and HGB < 
7.5 (9.4 at discharge).
-C4 Dacogen due on ___ has appointment with Dr. ___ bone marrow biopsy after 4 cycles and hopefully move 
forward with allogeneic transplant. Has unrelated donor. 
-Ciprofloxacin and Fluconazole have been on hold; restarted 
ciprofloxacin on admission as ___ < 500. 
-Bactrim discontinued as CD4 count > 200
-Will monitor IGG level; give IVIG for IGG less than 300 or 
infections as IVIG can affect counts. Last IVIG ___ = 762

#Lymphoma/CLL/Disease Status: Has been in remission with last CT 
scan in ___ without evidence of lymphoma/adenopathy. Has 
history of CLL as well; no evidence of this on BM biopsy by 
report. 

#Lower back pain: None on admission. No longer using narcotics 
or oxycontin. Continues on Gabapentin taper 
(900mgQAM--800mgQAfternoon--700mgQPM) per patient report.

#Headache: History of headaches; reported an episode on ___ 
but has had extensive w/u in the past that were reassuring. 
Denies headache since ___. Will not pursue further evaluation 
or treatment unless acute worsening or focal deficits

#Right leg DVT: Holding Xarelto 20 mg daily as platelet count < 
75,000. Has IVC filter in place.

#Depression: Continue home venlafaxine

Prophylaxes:
# Access: L POC placed ___
# FEN: neutropenic diet
# Bowel regimen: holding given diarrhea
# DVT PPX: holding Xarelto for hx of ___ DVT as plts < 75K
# Contact: ___ (husband)Phone number: ___ 
Cell phone: ___ ___ (daughter) ___ 
# Disposition: Discharged ___. RTC on ___ for follow up
# Code Status: FULL 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q8H 
2. albuterol sulfate 2.5 mg /3 mL (0.083 %) inhalation Q6H:PRN 
sob/wheezing 
3. Docusate Sodium 100 mg PO BID:PRN constipation 
4. FoLIC Acid 3.2 mg PO DAILY 
5. Gabapentin 800 mg PO QAFTERNOON 
6. Ipratropium Bromide MDI 2 PUFF IH QID:PRN wheezing/sob 
7. Omeprazole 20 mg PO DAILY 
8. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
9. Senna 8.6 mg PO BID:PRN constipation 
10. Venlafaxine 25 mg PO BID 
11. albuterol sulfate 90 mcg inhalation Q4H:PRN sob/wheezing 
12. Gabapentin 700 mg PO QPM 
13. Gabapentin 900 mg PO QAM 
 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H  
2.  Acyclovir 400 mg PO Q8H  
3.  albuterol sulfate 2.5 mg /3 mL (0.083 %) inhalation Q6H:PRN 
sob/wheezing  
4.  albuterol sulfate 90 mcg inhalation Q4H:PRN sob/wheezing  
5.  FoLIC Acid 3.2 mg PO DAILY  
6.  Gabapentin 800 mg PO QAFTERNOON  
7.  Gabapentin 700 mg PO QPM  
8.  Gabapentin 900 mg PO QAM  
9.  Ipratropium Bromide MDI 2 PUFF IH QID:PRN wheezing/sob  
10.  Omeprazole 20 mg PO DAILY  
11.  Venlafaxine 25 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Diarrhea
MDS
___ DVT

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___:

You were admitted because you were having decreased appetite, 
fatigue and diarrhea for several days at home. You received red 
blood cell transfusion and intravenous fluids with improvements 
in your symptoms. We think that these symptoms are likely side 
effects of your chemotherapy as further workup did not show a 
source of infection. Please continue to take all of your 
medications as ordered. Refer below for your next clinic 
appointment.

It was a pleasure taking care of you!

Sincerely,
YOUR ___ TEAM
 
Followup Instructions:
___